US06900215B2
3-Bromopyridine and 2-fluorobenzeneboronic acid were coupled using the procedure described in Example 31 to afford 3-(2-fluorophenyl)pyridine as a pale yellow oil which crystallised on standing: δH (360 MHz, DMSO) 7.33-7.40 (2H, m), 7.46-7.55 (2H, m), 7.61 (1H, ddd, J 8, 8 and 2), 7.96-8.01 (1H, m), 8.61 (1H, dd, J 5 and 2), 8.77 (1H, s).

reactant | 3-Bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-fluorobenzeneboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 3-(2-fluorophenyl)pyridine | FC1=C(C=CC=C1)C=1C=NC=CC1 | C11H8FN
